US07259183B2
Preparation of (4-tert-butyl-benzyl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine
0.753 ml of 4-tert-butylbenzaldehyde (4.5 mmol) and 0.436 ml of 2-(2,4-dichloro-phenyl)-ethylamine (3 mmol) were dissolved in 8 ml methanol at rt and after 30 min at rt refluxed for 3.5 h. After cooling down to rt, 170 mg (4.5 mmol) of sodium borohydride were added in portions and the reaction mixture was then refluxed overnight. After cooling down to rt, the reaction mixture was treated with 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:2) to give 691 mg colorless oil (68%). MS(ISP) 336.3 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 4.5 mmol, 0.753 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-(2,4-dichloro-phenyl)-ethylamine | 3 mmol, 0.436 ml | ClC1=C(C=CC(=C1)Cl)CCN | C8H9Cl2N
reactant | sodium borohydride | 4.5 mmol, 170 mg | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | (4-tert-butyl-benzyl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 691 mg, 68% | C(C)(C)(C)C1=CC=C(CNCCC2=C(C=C(C=C2)Cl)Cl)C=C1 | C19H23Cl2N
